Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / codeine
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Left hip arthrocentesis (___)
 
History of Present Illness:
Ms. ___ ___ ___, with h/o asthma, angina, 
HFpEF (last Echo LVEF>55% on ___, DM, chronic DVT on 
warfarin (last INR 2.2 on ___, left breast mass s/p 
recision not on adjuvant therapy, ?NSIP, s/p left fem fracture 
p/w bilateral leg pain and edema, with new O2 requirement.  

The patient was interviewed with a translator on the floor. She 
reports that she came to the hospital because of worsening leg 
pain. Records show that she had a mechanical fall and L femoral 
intertrochanteric fracture in ___. She has been in rehab 
until around a week ago. She reports that over the past few 
weeks her leg pain has worsened, and she has felt more leg 
swelling, especially on the left side. She currently denies that 
she has had any difficulty breathing or orthopnea. She denies 
any cough. She states that she came to the hospital because of 
difficulty with walking, which she feels is due to pain, and not 
due to shortness of breath. She was seen on ___ by primary care 
and pain regimen increased, discussed hip surgery. The patient 
was seen today in pulmonology clinic, where she did endorse 
increased dyspnea and cough, as well as ankle swelling, and can 
no longer get her shoes on. The patient came in per referral 
from her pulmonologist due to concern for volume overload.  

In the ED initial vitals were: 98.2, 84, 143/64, 20, 100% NC  
 EKG: consistent with prior, septal, inferior inversions, ?prior 
MI  
 Exam notable for: Fine crackles b/l LLF>ULF  
 Labs/studies notable for:  
 --___: "Nonocclusive thrombus in 1 of 2 left popliteal veins. 
Right superficial femoral vein is not fully compressible,but 
demonstratescolor flow, patient's head thrombus of this vein in 
the past, unclear whether finding is chronic or acute. 
Nonocclusive thrombus of the right popliteal vein."Discussed 
with radiology attending, ___ had DVT on right, other DVT is of 
unknown chronicity.  
 --CXR with ?pulmonary edema  
Patient was given:  
 ___ 20:11 PO/NG OxyCODONE (Immediate Release) 5 mg 
___  
 ___ 21:49 IV Furosemide 20 mg ___  
 ___ 22:13 SC Enoxaparin Sodium 80 mg ___  
 Vitals on transfer: 97.7, 84, 112/52, 18, 100% NC  
 On the floor patient reports leg pain, currently denies 
dyspnea.  
REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, palpitations, 
syncope, or presyncope.  
On further review of systems, denies fevers or chills. Denies 
any prior history of bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS  
 - Diabetes - IDDM  
 - Hypertension - yes  
 - Dyslipidemia - yes  
 2. CARDIAC HISTORY  
 - Coronaries - unknown  
 - Pump - known diastolic CHF, last TTE ___ EF >60%  
 - Rhythm - sinus  
 3. OTHER PAST MEDICAL HISTORY  
 - L trochanteric fracture s/p ORIF ___  
 - IDDM  
 - h/o recurrent ___ DVT's  
 - on coumadin since ___  
 -h/o Left breast cancer in ___ status post wide excision 
only..  
 -Diastolic heart failure s/p multiple admissions for 
exacerbation  
 - +H.PYLORI ___ - s/p treatment  
 - anxiety  
 - osteoarthritis of the hip and knee  
 - asthma - hospitalized several times, never intubated.  
 - basilar migraine syndrome  
 - diverticulosis  
 - hypertension  
 - LUMBAR STENOSIS ___  
 - OBESITY  
 - PERIPHERAL NEUROPATHY  
 - SUBDURAL HEMATOMA ___  
 - TRANSIENT ISCHEMIC ATTACK--multiple, most recently ___.  
 - TUBAL LIGATION  
 - SQUAMOUS CELL CARCINOMA OF SKIN s/p excision
 
Social History:
___
Family History:
Daughter with breast cancer. Multiple family members with DM. No 
other history of DVT in family. 
 
Physical Exam:
=========================
ADMISSION EXAM
=========================
VS: 97.4, 114/71, 88, 18, 96 2LNC  
GENERAL: Well developed, well nourished woman in NAD. Currently 
lying flat. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVP not elevated  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops. No thrills or lifts.  
LUNGS: Bilateral soft crackles at bases R>L  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. 2+ edema to knees bilaterally. 
Pain with knee and hip flexion on L.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

=========================
DISCHARGE EXAM
=========================
VITALS: Tmax 98 BP 90-130/50-80s HR 70-80s RR ___ on 
RA
GENERAL: Well developed, well nourished woman in NAD. Oriented 
x3. 
HEENT: Normocephalic atraumatic.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No m/r/g.
LUNGS: Bilateral rales at bases R > L and R mid-lung, 
auscultated anteriorly as well. No wheezes.   
ABDOMEN: Soft, non-tender, non-distended. No organomegly.
EXTREMITIES: Warm, well perfused. Trace edema to knees 
bilaterally. Left knee slightly swollen compared to right but 
improved from previous day, no gross effusion, painful to 
palpation. Pain with knee and hip flexion, L > R.
SKIN: No significant skin lesions or rashes.  
 
Pertinent Results:
=========================
ADMISSION LABS
=========================
___ 07:40PM BLOOD WBC-6.8 RBC-3.61* Hgb-10.7* Hct-34.1 
MCV-95 MCH-29.6 MCHC-31.4* RDW-13.3 RDWSD-45.9 Plt ___
___ 07:40PM BLOOD Neuts-63.7 ___ Monos-8.6 Eos-5.3 
Baso-0.7 Im ___ AbsNeut-4.36 AbsLymp-1.44 AbsMono-0.59 
AbsEos-0.36 AbsBaso-0.05
___ 07:40PM BLOOD ___ PTT-30.8 ___
___ 07:40PM BLOOD Glucose-174* UreaN-21* Creat-0.9 Na-139 
K-4.5 Cl-96 HCO3-29 AnGap-19
___ 07:40PM BLOOD Calcium-9.2 Phos-3.4 Mg-1.6
___ 10:20PM BLOOD Lactate-1.2

=========================
PERTINENT RESULTS
=========================
LABS
=========================
___ 07:20PM BLOOD proBNP-626*

=========================
MICROBIOLOGY
=========================
___ 05:30PM JOINT FLUID Crystal-NONE
___ 5:30 pm JOINT FLUID Source: hip. 
GRAM STAIN (Final ___: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
NO MICROORGANISMS SEEN. 
FLUID CULTURE (Preliminary): NO GROWTH. 
===
URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 
===
BLOOD CULTURES (___): No growth.

=========================
IMAGING
=========================
Bilateral lower extremity ultrasound (___): 
Nonocclusive thrombus in 1 of 2 left popliteal veins.  
Right superficial femoral vein is not fully compressible,but 
demonstrates 
color flow, patient's had thrombus of this vein in the past, 
unclear whether finding is chronic or acute. 
Nonocclusive thrombus of the right popliteal vein. 
===
CXR (___):   
Overall, the appearance of the lungs is similar compared to the 
prior study, with low lung volumes and areas of bilateral 
pulmonary opacity which may be due to mild edema superimposed on 
chronic lung disease.  Cardiac and mediastinal silhouettes are 
grossly stable.  No pleural effusion or pneumothorax is seen.
=== 
Left knee plain film (___): 
There is severe narrowing of the medial compartment with 
osteophyte formation. Small patellofemoral joint osteophytes are 
also noted. There is patellar enthesopathy. There is a small 
joint effusion. The bones are demineralized. Chondrocalcinosis 
is appreciated.  There are vascular calcifications. No acute 
fracture or dislocation is noted.
=== 
Left hip plain film (___): 
The patient is status post open reduction internal fixation of 
an 
intertrochanteric left femur fracture.  As seen on the prior CT, 
there has 
been superior migration of the compression screw component of 
the dynamic hip screw which abuts the superior femoral cortex. 
There is persistent 
visualization of the intertrochanteric fracture with medial 
displacement of the mid lesser trochanter fragment.  Mild 
degenerative changes are noted at the bilateral hip joints. 

=========================
DISCHARGE LABS
=========================
___ 06:19AM BLOOD WBC-8.9 RBC-3.25* Hgb-9.7* Hct-29.8* 
MCV-92 MCH-29.8 MCHC-32.6 RDW-13.5 RDWSD-45.6 Plt ___
___ 06:19AM BLOOD ___ PTT-26.2 ___
___ 06:19AM BLOOD Glucose-70 UreaN-26* Creat-0.9 Na-127* 
K-4.5 Cl-89* HCO3-25 AnGap-18
___ 06:19AM BLOOD Calcium-8.5 Phos-3.9 Mg-1.7
 
Brief Hospital Course:
====================
HOSPITAL COURSE
====================
Ms. ___ ___ ___, with h/o asthma, angina, 
HFpEF (last Echo LVEF>55% on ___, DM, chronic DVT on 
warfarin, left breast mass s/p recision not on adjuvant therapy, 
?NSIP, s/p left fem fracture p/w bilateral L > R leg pain and 
edema, with new O2 requirement. 

The patient appeared to be volume overloaded on exam with new O2 
requirement. She was diuresed with 20mg IV Lasix ___ times per 
day (home dose 20mg PO QD), with resolution of oxygen 
requirement and decreased lower extremity edema. Discharge 
weight 154.1lb on ___.

The patient also had significant left knee and hip pain. Repeat 
XR showed screw migration, and orthopedics was consulted. Left 
hip arthrocentesis (___) was performed at their request, no 
sign of infection on culture. Ortho recommended repeat hip 
surgery for pain relief and better mobility, but patient and 
daughter declined; they will follow up with Dr. ___ in 
clinic. Pain controlled with Tylenol and occasional oxycodone.

====================
ACTIVE ISSUES
====================
# Dyspnea, likely secondary to acute on chronic diastolic heart 
failure. Patient initially reported increased dyspnea and 
orthopnea which she denied in subsequent interviews. Exam 
concerning for fluid overload (crackles, increased edema), 
weight on admission is up from 72kg in ___. Daily weights 
/ diuresis PRN 20mg IV Lasix; unreliable exam and I/Os, so goal 
was when back on room air (accomplished on ___, switched to 
home dose 20mg PO Lasix). Continued metoprolol 50mg daily. 
***Discharge weight: 69.9 kg. Discharge creatinine: 0.9***

# Recurrent bilateral lower extremity DVTs: Continued warfarin 
2mg daily, was held briefly for possible orthopedic surgery on 
___ and INR drifted down to 1.0 on discharge. Continuing 
warfarin 2mg daily on discharge with Lovenox bridge 60mg QD on 
discharge until therapeutic on warfarin. Stop Lovenox when INR 
is therapeutic (goal INR 2.0-3.0).

# Leg pain: Secondary to mechanical fall, though seems to be 
worsening. This may be due to increased swelling from heart 
failure. However, read of LENIs is unclear as to whether there 
could be worsening DVT. Pain may be consistent with worsening 
arthritis and/or neuropathy as well. Also, patient received 
steroid injection on ___ in left knee that may be wearing 
off. Seen by ortho last month with concern for ORIF screw 
migration with possible referred pain to knee. Ortho recommended 
hip replacement but patient and daughter deferred.

====================
CHRONIC ISSUES
====================
# Asthma (see dyspnea above): Continued home montelukast, 
budesonide, and albuterol.
# DM: Continued home regimen.  

=======================
TRANSITIONAL ISSUES
=======================
***Discharge weight: 69.9 kg. Discharge creatinine: 0.9***
[] Patient noted to be hyponatremic to 127 on day of discharge. 
Please re-check Na on ___. If patient remains hyponatremic, 
consider fluid restriction.
[] Orthopaedic f/u appointment on ___ at 10:15 AM
[] Discharge standing weight 69.9 kg, at this weight patient 
satting mid ___ on room air, rales secondary to ILD, trace lower 
extremity edema. If weight gain over 3lbs would give 40mg PO 
Lasix (double usual dose) as needed to maintain weight.
[] Patient subtherapeutic with INR 1.0 on discharge, on warfarin 
2 mg daily; being bridged with Lovenox 60mg daily; please 
continue Lovenox bridge until INR ___, may need to adjust 
warfarin dose.
# Contact: ___ (daughter) ___  
# Code Status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q8H 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN shortness of 
breath 
3. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
4. Bisacodyl 10 mg PR QHS:PRN constipation 
5. Budesonide 0.5 mg/2mL INHALATION BID:PRN asthma 
6. Capsaicin 0.025% 1 Appl TP TID:PRN joint pain  
7. Docusate Sodium 100 mg PO BID constipation 
8. Fish Oil (Omega 3) 500 mg PO DAILY 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
11. Furosemide 20 mg PO DAILY 
12. Gabapentin 300 mg PO QAM 
13. Gabapentin 300 mg PO QHS 
14. Lidocaine 5% Patch 1 PTCH TD QAM 
15. Magnesium Oxide 400 mg PO DAILY 
16. Montelukast 10 mg PO DAILY 
17. Omeprazole 40 mg PO DAILY 
18. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild 
19. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
20. Senna 8.6 mg PO DAILY:PRN constipation 
21. Vitamin D ___ UNIT PO DAILY 
22. Warfarin 2 mg PO DAILY16 
23. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
24. Metoprolol Succinate XL 50 mg PO DAILY 
25. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
26. Benzonatate 200 mg PO TID:PRN cough 
27. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN sore throat 
28. Guaifenesin-Dextromethorphan 5 mL PO Q6H cough 
29. Glargine 28 Units Bedtime

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC Q24H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 60 mg/0.6 mL 60 mg sc Daily Disp #*7 Syringe 
Refills:*0 
2.  Acetaminophen 325-650 mg PO Q8H  
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN shortness of 
breath  
4.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
5.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
6.  Benzonatate 200 mg PO TID:PRN cough  
7.  Bisacodyl 10 mg PR QHS:PRN constipation  
8.  Budesonide 0.5 mg/2mL INHALATION BID:PRN asthma  
9.  Capsaicin 0.025% 1 Appl TP TID:PRN joint pain   
10.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN sore throat  

11.  Docusate Sodium 100 mg PO BID constipation  
12.  Fish Oil (Omega 3) 500 mg PO DAILY  
13.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
14.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
15.  Furosemide 20 mg PO DAILY  
16.  Gabapentin 300 mg PO QAM  
17.  Gabapentin 300 mg PO QHS  
18.  Guaifenesin-Dextromethorphan 5 mL PO Q6H cough  
19.  Glargine 28 Units Bedtime 
20.  Lidocaine 5% Patch 1 PTCH TD QAM  
21.  Magnesium Oxide 400 mg PO DAILY  
22.  Metoprolol Succinate XL 50 mg PO DAILY  
23.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
24.  Montelukast 10 mg PO DAILY  
25.  Omeprazole 40 mg PO DAILY  
26.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild 
RX *oxycodone 5 mg 1 tablet(s) by mouth Daily Disp #*14 Tablet 
Refills:*0 
27.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
28.  Senna 8.6 mg PO DAILY:PRN constipation  
29.  Vitamin D ___ UNIT PO DAILY  
30.  Warfarin 2 mg PO DAILY16  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
- Acute on chronic systolic heart failure
SECONDARY:
- Left hip and knee pain
- Deep vein thrombosis, bilateral lower extremities

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You came to the hospital 
because you were feeling short of breath and your oxygen levels 
were low. You were also having a lot of pain in your legs.

We found that you seemed fluid-overloaded from your heart 
failure, and gave you higher doses of Lasix to get rid of this 
fluid. This appeared to work, and at discharge you were 
breathing comfortably without oxygen.

You were seen by the orthopedic doctors here, who ___ that 
complications from your hip surgery may be causing your pain. 
They offered to do a repeat surgery, but you decided to wait and 
follow up with the surgeons outpatient on ___ at 
10:15 AM.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___